US07964608B2
4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester (250 mg, 0.94 mmol) was treated with 2,2-dimethyl-propylamine following general procedure B to afford 4-(2,2-dimethyl-propylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester (220 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid in quantitative yield using general procedure D and then transformed into the corresponding ethylamide (160 mg) following general procedure E. The above ethylamide (0.50 mmol) was subjected to reaction with methyl chloroformate according to general procedure F to furnish 1-(2,2-dimethyl-propyl)-3-ethyl-7-methoxy-1H-pyrimido[5,4-c]quinoline-2,4-dione (5 mg). LCMS: m/z 342 [M+1]+.

reactant | 4-Chloro-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.94 mmol, 250 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C13H12ClNO3
reactant | 2,2-dimethyl-propylamine | CC(CN)(C)C | C5H13N
product | 4-(2,2-dimethyl-propylamino)-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 220 mg, quantitative yield | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NCC(C)(C)C)OC | C18H24N2O3
